US09416135B2
To a 1.0 M solution of TiCl4 in toluene (6.67 mL, 6.67 mmol) was added a 1.6 M solution of MeLi in Et2O (4.18 mL, 6.69 mmol) dropwise a −78° C. (dry ice/acetone bath). The resulting dark solution stirred at −78° C. for 30 minutes. A solution of 1-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)ethanone (500 mg, 2.23 mmol) in Et2O (3 mL) was added dropwise at −78° C. The reaction was slowly allowed to warm to rt in the dewar over a 15 h period. TLC analysis showed complete conversion to the more polar tertiary alcohol product. The mixture was then cooled to 0° C. and quenched with sat. aq. NH4Cl (10 mL) followed by EtOAc (10 mL) for the workup. The EtOAc layer was separated and the aqueous layer was extracted with EtOAc (2×10 mL). The EtOAc layers were combined, dried using Na2SO4 and evaporated to give the crude product. Purification using ISCO FCC eluting with 20% EtOAc in Hexanes gave 459 mg of 2-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)propan-2-ol (86% yield) as a colorless oil. LC-MS MS (ESI) m/z 241.12 [M+H]+. 1H NMR (CDCl3, 400 MHz): δ 9.05 (s, 1H), 1.99 (s, 1H), 1.67 (s, 6H).

reactant | toluene | 6.67 mmol, 6.67 mL | C1(=CC=CC=C1)C | C7H8
reactant | MeLi | [Li]C
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 1-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)ethanone | 2.23 mmol, 500 mg | ClC1=NC=C(C(=N1)C(F)(F)F)C(C)=O | C7H4ClF3N2O
solvent | Et2O | 3 mL | CCOCC | C4H10O
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
solvent | Et2O | 6.69 mmol, 4.18 mL | CCOCC | C4H10O
product | 2-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)propan-2-ol | 459 mg, 86% yield | ClC1=NC=C(C(=N1)C(F)(F)F)C(C)(C)O | C8H8ClF3N2O
